US07943609B2
tert-Butyl (4R)-4-(1-hydroxy-1-methylethyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (7.32 g, 27.8 mmol), prepared by the method of Joullie, Tetrahedron, 52, pp. 11673-11694, (1996), was dissolved in 20 mL of ethanol. A 4.3 M solution of hydrochloric acid in ethanol (15 mL) was then added and the reaction mixture was heated 85° C. After 2 hours, the solution was cooled and concentrated under reduced pressure. The resulting residue was concentrated with 2-propanol several times and then with Et2O to give crude (2R)-2-amino-3-methylbutane-1,3-diol hydrochloride (4.32 g) as a brown oil. This was used in the next reaction without further purification.

reactant | tert-Butyl (4R)-4-(1-hydroxy-1-methylethyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 27.8 mmol, 7.32 g | OC(C)(C)[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C13H25NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (2R)-2-amino-3-methylbutane-1,3-diol hydrochloride | 4.32 g | Cl.N[C@H](CO)C(C)(O)C | InChI=1S/C5H13NO2.ClH/c1-5(2,8)4(6)3-7;/h4,7-8H,3,6H2,1-2H3;1H/t4-;/m1./s1
